US07655666B2
A solution of 2-amino-5-iodo-4-isopropyl-benzoic acid methyl ester (1.5 g, 4.7 mmol), Bu3SnCCH (1.5 mL, 5.17 mmol) and (Ph3P)4Pd (271.6 mg, 0.235 mmol) in dioxane (80 mL) was heated at 120° C. for 1.5 h. The solvent was removed in vacuo. The residue was purified by two successive flash chromatographies (160 g silica gel, hexanes→EtOAc:hexanes (3:7 to 1:1), then (50 g silica gel, hexanes→EtOAc:hexanes (1:9)) to provide 2-amino-5-ethynyl-4-isopropyl-benzoic acid methyl ester (738 mg, 72%) as a yellowish oil. API-ES: m/z 218 [M+H]+, rt 5.45 min.

reactant | 2-amino-5-iodo-4-isopropyl-benzoic acid methyl ester | 4.7 mmol, 1.5 g | COC(C1=C(C=C(C(=C1)I)C(C)C)N)=O | C11H14INO2
reactant | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)4Pd | 0.235 mmol, 271.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-5-ethynyl-4-isopropyl-benzoic acid methyl ester | 738 mg, 72% | COC(C1=C(C=C(C(=C1)C#C)C(C)C)N)=O | C13H15NO2
